US04895868
4-Acetoxyphenyl-3-methylbut-2-enylsulfide
A mixture of 6.87 g (35.4 mmol) of 4-hydroxyphenyl-3-methylbut-2-enylsulfide, 12.96 g (126 mmol) of acetic anhydride and 10 ml of pyridine was heated at reflux for 1.5 hours under a nitrogen atmosphere. The reaction mixture was cooled to room temperature, poured into water and extracted with 2×50 ml ether. The ether extracts were combined and washed successively with water and saturated NaCl solution and then dried (MgSO4). The solution was filtered and the solvent removed in-vacuo to give the title compound as a pale yellow oil. PMR (CDCl3): δ1.55 (3H, s), 1.71 (3H, s), 2.29 (3H, s), 3.51 2H, d, J~7.6 Hz , 5.28 (1H, m), 7.00 (2H, d, J~8.8 Hz), 7 35 (2H, d, J~8.8 Hz).

reactant | 4-hydroxyphenyl-3-methylbut-2-enylsulfide | 35.4 mmol, 6.87 g | OC1=CC=C(C=C1)C(C=C(C)C)SC(C=C(C)C)C1=CC=C(C=C1)O | C22H26O2S
reactant | acetic anhydride | 126 mmol, 12.96 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
product | 4-Acetoxyphenyl-3-methylbut-2-enylsulfide | C(C)(=O)OC1=CC=C(C=C1)C(C=C(C)C)SC(C=C(C)C)C1=CC=C(C=C1)OC(C)=O | C26H30O4S
